US07241769B2
2-amino-6-trifluoromethyl-benzamide
100 mg (0.5 mmol) 2-fluoro-6-trifluoromethyl-benzonitrile are combined with 1 ml of a 7 M ammonia solution in methanol and heated in the microwave for 20 min. at 100° C. Then the solvent is eliminated in vacuo, the crude product is combined with 1 ml of conc. H2SO4 and heated for 2.5 h at 80° C. Then the reaction mixture is stirred into ice water, neutralised with 1 M NaOH and extracted twice with 150 ml dichloromethane and three times with 160 ml of ethyl acetate. The organic phase is dried with MgSO4 and the solvent is eliminated in vacuo. The crude product is purified by column chromatography. The carrier material used is silica gel and the eluant is dichloromethane, to which 4% of a mixture of 90% methanol and 10% saturated aqueous ammonia solution have been added.

reactant | 2-fluoro-6-trifluoromethyl-benzonitrile | 0.5 mmol, 100 mg | FC1=C(C#N)C(=CC=C1)C(F)(F)F | C8H3F4N
reactant | ammonia | 7 M | N | H3N
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-amino-6-trifluoromethyl-benzamide | NC1=C(C(=O)N)C(=CC=C1)C(F)(F)F | C8H7F3N2O
